US06465641B1
One embodiment of the invention provides a method of preparing AZT-5′-(para-bromophenyl methoxyalaninyl phosphate) in a single reaction vessel without purification of the intermnediates formed. Phosphorous oxychloride is reacted with a para-bromophenol moiety to form para-bromophenyl phosphorodichloridate. Without purification, the para-bromophenyl phosphorodichloridate is contacted with alanine methyl ester to produce para-bromophenyl methoxyalaninyl phosphorochloridate. Without purification, the para-bromophenyl methoxyalaninyl phosphorochloridate is reacted with AZT.

reactant | Phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | para-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | para-bromophenyl phosphorodichloridate | P(OC1=CC=C(C=C1)Br)(=O)(Cl)Cl | C6H4BrCl2O2P
